US04317920
To a solution of 77.5 g. of 2-methane-sulphonyloxy-4-methyl-hydratropic acid in 600 ml. of methanol 84 ml. of triethyl amine and 6 g. of a 5% palladium on charcoal catalyst are obtained, and the mixture is hydrogenated at 25° C. until a calculated amount of hydrogen is used up. Catalyst is filtered off and the filtrate is evaporated. The residue is taken up in water and the solution is acidified with a 20% aqueous hydrochloric acid solution. The separated 4-methyl-hydratropic acid is extracted with chloroform and the chloroform extract is dried over sodium sulphate. Evaporation of the solution affords 4-methyl-hydratropic acid.

reactant | 2-methane-sulphonyloxy-4-methyl-hydratropic acid | CS(=O)(=O)OC1=C(C(C(=O)O)C)C=CC(=C1)C | C11H14O5S
reactant | methanol | 84 ml | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | [Pd] | Pd
solvent | triethyl amine | C(C)N(CC)CC | C6H15N
product | 4-methyl-hydratropic acid | CC1=CC=C(C(C(=O)O)C)C=C1 | C10H12O2
